US04652519
Example 4: Methyl-2-amino-4-phenylbutyrate hydrochloride (34)
Dlα-amino-δ-phenylbutyric acid, prepared through amidoalkylation of styrene with methyl- -methoxyhippurate, according to Ben-Ishai et al (4.1 g, 0.018M) was dissolved in dry methanol, cooled in ice bath. Freshly distilled thionyl chloride (14.7 g, 0.12M) was added during 15 min. the ice bath was removed and the reaction mixture was left at room temp. for 3 days. Dry ether (400 ml) was added and the resulting hydrochloride ester precipitated (3.7 g, 88%) m.p. 153°-4°, lit. [D. Ben-Ishai, R. Moshenberg and J. Altman, Tetrahedron 33, 1533 (1977)] 150°-152°.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | methyl- -methoxyhippurate | CC(C(=O)[O-])(NC(=O)C1=CC=CC=C1)OC
reactant | thionyl chloride | 0.12M, 14.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | Methyl-2-amino-4-phenylbutyrate hydrochloride | Cl.COC(C(CCC1=CC=CC=C1)N)=O | InChI=1S/C11H15NO2.ClH/c1-14-11(13)10(12)8-7-9-5-3-2-4-6-9;/h2-6,10H,7-8,12H2,1H3;1H
